US07470679B2
(R)-3-(2-(acetoxymethyl)-4-amino-3-methylphenyl)-1-methoxy-1-oxopropan-2-yl benzoate (15.00 g, 38.9 mmol) in acetonitrile (200. ml, 3829 mmol) was added N-chlorosuccinimide (5.72 g, 42.8 mmol). The reaction mixture was then heated to reflux for 2 min. The solvent was removed and the crude product was washed with aqueous NaHCO3. The crude product was purified by flash chromatography using 30% EtOAc in hexane to give (R)-3-(2-(acetoxymethyl)-4-amino-5-chloro-3-methylphenyl)-1-methoxy-1-oxopropan-2-yl benzoate in 57% yield. MS (ESI) 442 (M+H); Rf=2.42.

reactant | (R)-3-(2-(acetoxymethyl)-4-amino-3-methylphenyl)-1-methoxy-1-oxopropan-2-yl benzoate | 38.9 mmol, 15.00 g | C(C1=CC=CC=C1)(=O)O[C@@H](C(=O)OC)CC1=C(C(=C(C=C1)N)C)COC(C)=O | C21H23NO6
reactant | acetonitrile | 3829 mmol | C(C)#N | C2H3N
reactant | N-chlorosuccinimide | 42.8 mmol, 5.72 g | ClN1C(CCC1=O)=O | C4H4ClNO2
product | (R)-3-(2-(acetoxymethyl)-4-amino-5-chloro-3-methylphenyl)-1-methoxy-1-oxopropan-2-yl benzoate | 57% yield | C(C1=CC=CC=C1)(=O)O[C@@H](C(=O)OC)CC1=C(C(=C(C(=C1)Cl)N)C)COC(C)=O | C21H22ClNO6
